US07915457B2
2.2 Preparation of (9-anthracenyl)diphenylsilanol
For preparation of the silanol, 20 mmol 9-anthracenyl bromide are metallized with the equimolar amount of n-butyllithium (2 M solution in cyclohexane, 20 mmol) at −20° C. and dichlorodiphenylsilane is then added, in accordance with Example 2.1. When the addition of the dichlorodiphenylsilane has ended, the reaction mixture is heated under reflux for 3 h and then hydrolysed by addition of water (100 g).

reactant | silanol | [SiH3]O | H4OSi
reactant | 9-anthracenyl bromide | 20 mmol | C1=CC=CC2=CC3=CC=CC=C3C(=C12)Br | C14H9Br
reactant | n-butyllithium | 20 mmol, 2 M | C(CCC)[Li]
reactant | dichlorodiphenylsilane | Cl[Si](C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C12H10Cl2Si
solvent | water | 100 g | O | H2O
product | (9-anthracenyl)diphenylsilanol | C1=CC=CC2=CC3=CC=CC=C3C(=C12)[Si](O)(C1=CC=CC=C1)C1=CC=CC=C1 | C26H20OSi
